US06951879B2
According to the method in example 7, 6-(4-Bromo-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole and Pyrrolidine were converted to yield 3-(4-Chloro-phenyl)-6-(4-pyrrolidin-1-yl-butoxy)-benzo[d]isothiazole, MS: 387 (MH+, 1Cl).

reactant | 6-(4-Bromo-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Cl)C=C1 | C17H15BrClNOS
reactant | Pyrrolidine | N1CCCC1 | C4H9N
product | 3-(4-Chloro-phenyl)-6-(4-pyrrolidin-1-yl-butoxy)-benzo[d]isothiazole | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN2CCCC2 | C21H23ClN2OS
